US06436915B1
Synthesis of 3,5-Diamino-4-[(3-methoxy-5-trifluoromethylphenyl)-hydrazono]pyrazole
This compound was prepared using 134 mg (0.5 mmol) of 2-[(3-methoxy-5-trifluoromethylphenyl)hydrazono]malononitrile, which was derived from 3-methoxy-5-trifluoromethylaniline (191 mg, 1.0 mmol) and malononitrile (1.5 mmol) as described in Example 8, and hydrazine hydrate. Very little solid had formed after heating the reaction at 75° C. for 1 hr, however, analysis of the reaction solution by TLC indicated that no starting material remained. The solution was allowed to cool to room temperature and the solvent was evaporated. The residue was dissolved in ethyl acetate and then precipitated by the addition of hexanes. The resulting solid was isolated by filtration and dried to yield 10 mg (7%) of the title compound as a yellow solid.

reactant | 2-[(3-methoxy-5-trifluoromethylphenyl)hydrazono]malononitrile | 0.5 mmol, 134 mg | COC=1C=C(C=C(C1)C(F)(F)F)NN=C(C#N)C#N | C11H7F3N4O
reactant | 3-methoxy-5-trifluoromethylaniline | 1.0 mmol, 191 mg | COC=1C=C(N)C=C(C1)C(F)(F)F | C8H8F3NO
reactant | malononitrile | 1.5 mmol | C(CC#N)#N | C3H2N2
reactant | hydrazine hydrate | O.NN
product | 3,5-Diamino-4-[(3-methoxy-5-trifluoromethylphenyl)-hydrazono]pyrazole | 10 mg, 7% | NC1=NN=C(C1=NNC1=CC(=CC(=C1)C(F)(F)F)OC)N | C11H11F3N6O
